Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Pollen Extracts / azithromycin / Zithromax / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Reflux
 
Major Surgical or Invasive Procedure:
___
1.  Laparoscopic reduction of hiatal hernia.
2.  Repair of diaphragm.
3.  ___ fundoplication

 
History of Present Illness:
Ms. ___ is a ___ yo female, former smoker. Was found to have a 
hiatal hernia many years ago. Reflux and cough have worsened, so 
was referred for surgical 
discussion. Last CT ___ revealed a small hiatal hernia. It 
was done in
the setting of evaluation of pulmonary nodules. She has not had 
manometry or repeat imaging since that CT scan. Her main symptom 
includes episodes of
regurgitation and heartburn that happen at night while laying 
flat which impact her quality of sleep. She takes a PPI with 
little improvement. This is despite changing her dosing schedule 
and frequency. She denies dysphagia to solids or liquids or 
weight loss. She does endorse a cough productive of a clear
yellow sputum. She denies shortness of breath with mild activity 
and is able to climb a flight of stairs without getting short of 
breath. Her last colonoscopy was in ___ and the patient reports 
that it was "normal". She has issues with chronic loose stools 
for which she sees GI. 
She presents now for surgical repair.
 
 

 

 
Past Medical History:
Ganglion cyst
Gastroesophageal reflux
Heart murmur
Hypercholesterolemia
Hypothyroidism
Osteopenia
Osteoporosis
Pelvic fracture
Stress incontinence
Thyroid cancer s/p total thyroidectomy
Gallstones
s/p cholecystectomy ___
s/p thyroidectomy
s/p bladder suspension
s/p breast biopsy
s/p rhinoplasty 
s/p tonsillectomy 

 
Social History:
___
Family History:
Mother CVA, PVD, Amputation
Father Pulmonary ___ Lung Ca
Offspring

 

 
Physical Exam:
 Temp:   98.2F      HR: 81      BP:    169/57       RR: 16      
O2 sat 97%  RA
 GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:
HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:
RESPIRATORY    
[x] CTA/P     [x] Excursion normal       
[ ] Abnormal findings:
CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [ ] Abnormal findings:
GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:
GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:
NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
 [x] No facial asymmetry [x] Cognition intact
[ ] Abnormal findings:
MS         
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:
LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:
SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:
PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a laparoscopic reduction of 
hiatal hernia, repair of diaphragm and Nissen fundoplication. 
She tolerated the procedure well and returned to the PACU in 
stable condition. She maintained stable hemodynamics and her 
pain was controlled with IV Dilaudid. She remained NPO and was 
hydrated with IV fluids.

The following day her diet was advanced and she was able to take 
liquids without difficulty. Her port sites were healing well and 
her pain was relieved with Tylenol. She denied any dysphagia but 
had some reflux with her first liquid meal. She will stay on her 
pre op omeprazole, slowly advance to soft solids and remain 
upright for 30 minutes post eating.

She was up and walking independently and preferred no narcotic 
at discharge but agreed to take ibuprofen for any pain 
unrelieved by Tylenol. She was discharged home on ___ and 
will follow up with Dr. ___ in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. tiotropium bromide 1.25 mcg/actuation inhalation DAILY 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
6. Aspirin 81 mg PO DAILY 
7. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
wheezing 
8. Levothyroxine Sodium 112 mcg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*1 
4.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation - First Line 
 
5.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
wheezing  
6.  Aspirin 81 mg PO DAILY 
Start ___  
7.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
8.  Levothyroxine Sodium 112 mcg PO DAILY  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Omeprazole 20 mg PO QPM  
11.  Rosuvastatin Calcium 10 mg PO QPM  
12.  tiotropium bromide 1.25 mcg/actuation inhalation DAILY  
13.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Hiatal hernia.
2. Gastroesophageal reflux disease.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting.
 -Increased shortness of breath

 Pain
-You may need pain medication once you are home but you can wean 
it over the next week as the discomfort resolves.  Make sure 
that you have regular bowel movements while on narcotic pain 
medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

-No driving while taking narcotic pain medication.

-Take Tylenol on a standing basis to avoid more opiod use.

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Soft solids as tolerated

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS

 

 
 
Followup Instructions:
___